US07112594B2
5-amino-2-[N,N-bis(2-hydroxyethyl)amino]benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (25.5 g) and diethanolamine (102 g), the title compound (24 g) was obtained. melting point: 38° C.

reactant | 2-chloro-5-nitrobenzonitrile | 25.5 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | diethanolamine | 102 g | N(CCO)CCO | C4H11NO2
product | 5-amino-2-[N,N-bis(2-hydroxyethyl)amino]benzonitrile | 24 g | NC=1C=CC(=C(C#N)C1)N(CCO)CCO | C11H15N3O2
